US04920119
219 mg of 4-amino-3-phenyl-5-isothiazolecarboxamide in 7.2 ml of glacial acetic acid and 4 ml of concentrated hydrochloric acid were stirred at 0° C. during the addition of a solution of 80 mg of sodium nitrite in 1.2 ml of water. The mixture was held at below room temperature overnight and the precipitated product was filtered off and recrystallized from methanol to give 164 mg of 7-phenylisothiazolo[4,5-d]-1,2,3-triazin-4(3H)-one. A sample recrystallized from aqueous methanol melted at 179°-180° C. (dec.).

reactant | 4-amino-3-phenyl-5-isothiazolecarboxamide | 219 mg | NC=1C(=NSC1C(=O)N)C1=CC=CC=C1 | C10H9N3OS
reactant | sodium nitrite | 80 mg | N(=O)[O-].[Na+]
solvent | acetic acid | 7.2 ml | C(C)(=O)O | C2H4O2
solvent | hydrochloric acid | 4 ml | Cl | ClH
solvent | water | 1.2 ml | O | H2O
product | 7-phenylisothiazolo[4,5-d]-1,2,3-triazin-4(3H)-one | 164 mg | C1(=CC=CC=C1)C1=NSC2=C1N=NNC2=O | C10H6N4OS
